US08211892B2
0.35 g of 4-{4-[4-(2-methoxyethanesulphonyl)piperazin-1-yl]phenyl}-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester is placed in 7 ml of dichloromethane. 2.5 ml of a 4N solution of HCl in dioxane are slowly added at 0° C. The mixture is stirred for 5 minutes under cold conditions and then the mixture is allowed to return to ambient temperature. The reaction mixture is stirred at ambient temperature for 18 h and is then diluted with dichloromethane. A saturated aqueous sodium hydrogencarbonate solution is added until a pH=7-8 is reached. The aqueous phase is extracted with dichloromethane. The organic phases are combined, washed with water, dried over sodium sulphate, filtered through a sintered glass filter and concentrated under reduced pressure. 0.246 g of 1-{4-[4-(2-methoxyethanesulphonyl)piperazin-1-yl]phenyl}-1,2,3,4-tetrahydroquinoxaline is obtained in the form of an oil.

reactant | 4-{4-[4-(2-methoxyethanesulphonyl)piperazin-1-yl]phenyl}-3,4-dihydro-2H-quinoxaline-1-carboxylic acid tert-butyl ester | 0.35 g | C(C)(C)(C)OC(=O)N1CCN(C2=CC=CC=C12)C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)CCOC | C26H36N4O5S
reactant | HCl | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-{4-[4-(2-methoxyethanesulphonyl)piperazin-1-yl]phenyl}-1,2,3,4-tetrahydroquinoxaline | 0.246 g | COCCS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)N1CCNC2=CC=CC=C12 | C21H28N4O3S
